US07842703B2
Step II: 6-Chloro-3,4-dihydro-4-hydroxy-spiro[2H-1-benzopyran-2,1′-cyclobutane]
Sodium borohydride (40 mmol) was added to a solution of 6-Chloro-3,4-dihydro-4-oxo-spiro[2H-1-benzopyran-2,1′-cyclobutane] (10 mmol) in methanol (10 ml). at about 0° C. and the reaction mixture was stirred at room temperature for about 2 h and compound was extracted in ethyl acetate. Organic layer was washed with water, brine and separated. It was then dried on anhydrous sodium sulfate and concentrated to afford the desired product as a white solid.

reactant | Sodium borohydride | 40 mmol | [BH4-].[Na+]
reactant | 6-Chloro-3,4-dihydro-4-oxo-spiro[2H-1-benzopyran-2,1′-cyclobutane] | 10 mmol | ClC=1C=CC2=C(C(CC3(CCC3)O2)=O)C1 | C12H11ClO2
solvent | methanol | 10 ml | CO | CH4O
product | 6-Chloro-3,4-dihydro-4-hydroxy-spiro[2H-1-benzopyran-2,1′-cyclobutane] | ClC=1C=CC2=C(C(CC3(CCC3)O2)O)C1 | C12H13ClO2
